US07153854B2
To a solution of ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (80 mg) and pyridine (1 mL) in dichloromethane (2 mL) was added methanesulfonyl chloride (34.8 mg) under ice-water cooling and the mixture was stirred at ambient temperature for 1 hour. The solution was diluted with chloroform, washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by preparative silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1) to give ethyl 5-(7-ethyl-4-(5-methyl-3-pyridinyl)-2-{[(methylsulfonyl)amino]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate as yellow oil (62.8 mg)

reactant | ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 80 mg | NCC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)C)CCCCC(=O)OCC | C23H30N4O2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 34.8 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-(7-ethyl-4-(5-methyl-3-pyridinyl)-2-{[(methylsulfonyl)amino]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate | 62.8 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)CCCCC(=O)OCC)CNS(=O)(=O)C | C24H32N4O4S
